US07635715B2
Step G: N-((6-Fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.6 g, 2 mmol) in 3 mL TFA was stirred at room temperature for 30 minutes. The mixture was concentrated and triturated in ether 20 mL. The solid was filtered, washed with 10 mL ether, and dried under high vacuum to give 0.46 g of the product as an off-white solid. MS m/e=308 (M+H)+. Calculated for C15H14FNO5 307.09.

reactant | 1,1-dimethylethyl N-((6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 2 mmol, 0.6 g | FC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22FNO5
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-Fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.46 g | FC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)O)O | C15H14FNO5
